US04330550
(b) Preparation of 8-(2-oxo-5-phenyl-4-imidazolin-1-yl)-caprylic acid.
A mixture of 800 ml of glacial acetic acid and 80 ml of 63 percent hydrobromic acid is poured over 37.4 g (0.1 mole) of N-ethyoxycarbonylheptyl-2-oxo-5-phenyl-4-oxazolin-3-ylcarboxamide and the mixture is heated under reflux for 2 hours and evaporated as completely as possible in vacuo. The residue is stirred with water. The crude product which is precipitated is separated and washed with a little water. After drying, the compound is purified by column chromatography (silica gel//CHCl3 /methanol).

reactant | hydrobromic acid | 80 ml | Br | BrH
reactant | N-ethyoxycarbonylheptyl-2-oxo-5-phenyl-4-oxazolin-3-ylcarboxamide | 0.1 mole, 37.4 g | C(C)OC(=O)CCCCCCCNC(=O)N1C(OC(=C1)C1=CC=CC=C1)=O | C20H26N2O5
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 8-(2-oxo-5-phenyl-4-imidazolin-1-yl)-caprylic acid | O=C1N(C(=CN1)C1=CC=CC=C1)CCCCCCCC(=O)O | C17H22N2O3
